US06613718B2
4-Chloro-2-fluoro-5-(2-pyrimidinyloxy) benzenamine (2 g) and triethyl amine (1.7 g) were dissolved in anhydrous ethyl acetate (75 ml) and stirred under ice cooling. Triphosgene (2.5 g) dissolved in ethyl acetate (75 ml) was slowly added to the stirred solution. The solution was heated at reflux for 2 hr and filtered. Evaporation of the solvent afforded 2-(2-chloro-4-fluoro-5-isocyanatophenoxy)-pyrimidine which was used for the next step without further purification.

reactant | 4-Chloro-2-fluoro-5-(2-pyrimidinyloxy) benzenamine | 2 g | ClC1=CC(=C(C=C1OC1=NC=CC=N1)N)F | C10H7ClFN3O
reactant | triethyl amine | 1.7 g | C(C)N(CC)CC | C6H15N
reactant | Triphosgene | 2.5 g | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
solvent | ethyl acetate | 75 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 75 ml | C(C)(=O)OCC | C4H8O2
product | 2-(2-chloro-4-fluoro-5-isocyanatophenoxy)-pyrimidine | ClC1=C(OC2=NC=CC=N2)C=C(C(=C1)F)N=C=O | C11H5ClFN3O2
